US08202858B2
[4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-carbamic Acid 4-nitro-benzyl Ester
A solution of 4-nitrobenzyl chloroformate (1.08 mg, 0.005 mmol) in dichloromethane (0.05 ml) was added to a solution of (4-Aminomethyl-cyclohexyl)-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone hydrochloride (Compound number 149) (1.95 mg, 0.005 mmol) in dichloromethane (0.05 ml) and triethyl-amine (0.0035 ml). The mixture was stirred at room temperature for 1 h then solvents were removed in vacuo to yield the title compound. (ESI)+: [M+H]+=533.3

reactant | 4-nitrobenzyl chloroformate | 0.005 mmol, 1.08 mg | ClC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C8H6ClNO4
reactant | (4-Aminomethyl-cyclohexyl)-(3,6-dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulen-9-yl)-methanone hydrochloride | 0.005 mmol, 1.95 mg | Cl.NCC1CCC(CC1)C(=O)N1C2=C(NC=3N(N=CC3C1)C)C=C(C=C2)C
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 0.05 ml | ClCCl | CH2Cl2
solvent | triethyl-amine | 0.0035 ml | C(C)N(CC)CC | C6H15N
product | [4-(3,6-Dimethyl-4,10-dihydro-3H-2,3,4,9-tetraaza-benzo[f]azulene-9-carbonyl)-cyclohexylmethyl]-carbamic Acid 4-nitro-benzyl Ester | [N+](=O)([O-])C1=CC=C(COC(NCC2CCC(CC2)C(=O)N2C3=C(NC=4N(N=CC4C2)C)C=C(C=C3)C)=O)C=C1 | C28H32N6O5
